* C:\Users\avent\OneDrive\Documents\pcb-001-ne555-astable-led-flasher\simulation\simulation\ltspice\pcb001_ne555_astable.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 0 VCAP VOUT N001 N004 VCAP N002 N001 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
V1 N001 0 5
R1 N001 N002 10k
R2 N002 VCAP {RBval}
C1 VCAP 0 10µ
C2 0 N004 10n
D1 VOUT N003 NSPW500BS
R3 N003 0 330
C3 N001 0 100n
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 5s 0 1ms startup
.meas tran TR1 WHEN V(vout)=2.5 TD=1s RISE=1
.meas tran TR2 WHEN V(vout)=2.5 TD=1s RISE=2
.meas tran TF1 WHEN V(vout)=2.5 TD=1s FALL=1
.meas tran TF2 WHEN V(vout)=2.5 TD=1s FALL=2
.meas tran tHIGH PARAM if(TF1>TR1, TF1-TR1, TF2-TR1)
.meas tran PERIOD PARAM TR2-TR1
.meas tran tLOW PARAM PERIOD-tHIGH
.meas tran FREQ PARAM 1/PERIOD
.meas tran DUTY PARAM 100*tHIGH/PERIOD
.meas tran VCAP_MIN MIN V(vcap) FROM 1s TO 5s
.meas tran VCAP_MAX MAX V(vcap) FROM 1s TO 5s
.step param RBval list 10k 60k 110k
.meas tran ILED_MAX MAX abs(I(R3)) FROM 1s TO 5s
.meas tran ILED_AVG AVG abs(I(R3)) FROM 1s TO 5s
.meas tran VOUT_MAX MAX V(vout) FROM 1s TO 5s
.meas tran VOUT_MIN MIN V(vout) FROM 1s TO 5s
.lib NE555.sub
.backanno
.end
